US07223789B2
Step 4: 4-cyclopentyloxy-8-nitro-1-formyl dibenzo[b,d]furan
Intermediate 2-bromo-4-cyclopentoxy-3-(p-nitrophenoxy)-benzaldehyde (500 mg, 1.09 mmol), anhydrous sodium carbonate (150 mg, 1.325 mmol) and palladium (II) acetate (25 mg, 0.096 mmol), in dimethylformamide (10 ml) are heated and stirred under nitrogen at 130° C. for 7 h. Water (90 ml) is added to the cooled reaction mixture and extracted with ethyl acetate (2×25 ml). The combined organic layer was washed with 5% hydrochloric acid followed by water and dried over anhydrous sodium sulfate to afford the product as a yellow solid (200 mg). mp: 230–240° C.

reactant | 2-bromo-4-cyclopentoxy-3-(p-nitrophenoxy)-benzaldehyde | 1.09 mmol, 500 mg | BrC1=C(C=O)C=CC(=C1OC1=CC=C(C=C1)[N+](=O)[O-])OC1CCCC1 | C18H16BrNO5
reactant | sodium carbonate | 1.325 mmol, 150 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 90 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.096 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-cyclopentyloxy-8-nitro-1-formyl dibenzo[b,d]furan | 200 mg | C1(CCCC1)OC1=CC=C(C2=C1OC1=C2C=C(C=C1)[N+](=O)[O-])C=O | C18H15NO5
